### PR TITLE
feat(SpaceAndTime): add Galilean group API

### PR DESCRIPTION
**Pull request by Robby955**
Addresses #911.

## Summary

This adds the algebraic Galilean-group API in arbitrary spatial dimension.

## Changes

- add `GalileanGroup d` with orthogonal, boost-velocity, spatial-translation, and time-translation fields
- add the `Group (GalileanGroup d)` instance
- add the active coordinate action on `Time × Space d` as a `MulAction`
- add inclusions from the Euclidean group, the orthogonal group, the existing rotation subgroup, spatial translations, the existing Euclidean translation subgroup, and time translations
- add simp lemmas for the group fields and coordinate action

Related: #1116 added a first-step datatype and coordinate action. This PR takes a different route by adding the composition law, inverse, `MulAction` instance, and subgroup inclusions requested for #911.

The Lie-group instance is not included here. Physlib does not yet have the needed Lie-group or charted-space layer for `Matrix.orthogonalGroup` or `EuclideanGroup`, so that part should be a follow-up once the manifold API is in place.

## Verification

- `lake build Physlib.SpaceAndTime.GalileanGroup.Basic`
- `lake build Physlib`
- `lake env lean /tmp/physlib-911-probe/GalileanProbe.lean`
- focused `#lint` on `Physlib/SpaceAndTime/GalileanGroup/Basic.lean`
- `lake exe lint_all --fast` (build/import/tag/sorry checks pass; the repo-wide style phase still reports unrelated existing style issues)
- `./scripts/lint-style.py Physlib/SpaceAndTime/GalileanGroup/Basic.lean`
- `git diff --check`
- no `sorry`, `admit`, or `axiom` in touched files

### CODE REVIEW

File: Physlib/SpaceAndTime/GalileanGroup/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,296 @@
...
+
+lemma orthogonal_smul_smul (R : Matrix.orthogonalGroup (Fin d) ℝ) (c : ℝ)
+    (v : EuclideanSpace ℝ (Fin d)) :
+    R • (c • v) = c • (R • v) := by
+  change (DistribMulAction.toLinearEquiv ℝ (EuclideanSpace ℝ (Fin d)) R) (c • v) =
+    c • ((DistribMulAction.toLinearEquiv ℝ (EuclideanSpace ℝ (Fin d)) R) v)
+  rw [map_smul]
+
+/-- The identity Galilean transformation. -/
+def identity : GalileanGroup d :=
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/GalileanGroup/Basic.lean]: I would not define this explicitly, nor `inv` and `mil`, I would instead include them directly in the instance

File: Physlib/SpaceAndTime/GalileanGroup/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,296 @@
...
+  velocity : EuclideanSpace ℝ (Fin d)
+  /-- The spatial translation. -/
+  spaceTranslation : EuclideanSpace ℝ (Fin d)
+  /-- The time translation. -/
+  timeTranslation : Time
+
+namespace GalileanGroup
+
+/-- A spatial vector viewed as a displacement of the chosen origin in `Space d`. -/
+noncomputable def vectorToSpace (v : EuclideanSpace ℝ (Fin d)) : Space d :=
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/GalileanGroup/Basic.lean]: Should go in the corresponding `Space` file if indeed needed.

File: Physlib/SpaceAndTime/GalileanGroup/Basic.lean (hunk 1 above)
Comment (jstoobysmith) [reply Physlib/SpaceAndTime/GalileanGroup/Basic.lean]: Or define them in parts using instances of `One`, `Mul` etc.

File: Physlib/SpaceAndTime/GalileanGroup/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,296 @@
...
+    · ext
+      simp [GalileanGroup.mul, GalileanGroup.inv, identity]
+
+instance : Inhabited (GalileanGroup d) where
+  default := 1
+
+@[simp] lemma one_rotation : (1 : GalileanGroup d).rotation = 1 := rfl
+@[simp] lemma one_velocity : (1 : GalileanGroup d).velocity = 0 := rfl
+@[simp] lemma one_spaceTranslation : (1 : GalileanGroup d).spaceTranslation = 0 := rfl
+@[simp] lemma one_timeTranslation : (1 : GalileanGroup d).timeTranslation = 0 := rfl
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/GalileanGroup/Basic.lean]: If you use the instances `One` you can put these lemmas below that (giving a nice structure to the file). I would also put new lines between lemmas like this.

**Comment by Robby955** [comment]
-awaiting-author

**Comment by Robby955** [comment]
@jstoobysmith Sure, I think I integrated those into my updates, if not just let me know what you'd like to see. Thanks!

**Review by jstoobysmith — APPROVED** [review]
This looks great to me, many thanks for making the changes. I've approved, will check it works with the bump, and if so merge.
